US06583135B2
10-[2-(Hexyloxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
Following the procedure for the preparation of 10-(2-propoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole and substituting 1-iodohexane for 1-iodopropane while making non-critical variations the title compound was obtained as 360 mg (66%) of a yellow foam: 1H NMR (400 MHz, CDCl3) δ 7.83 (br s, 1H), 7.36-7.27 (m, 3H), 7.17-7.13 (m, 1H), 7.05-7.01 (m, 1H), 6.98 (d, J=8.2 Hz, 1H), 6.93 (d, J=7.2 Hz, 1H), 3.95-3.85 (m, 2H), 3.06-3.01 (m, 1H), 2.98-2.93 (m, 2H), 2.90-2.85 (m, 1H), 2.82-2.79 (m, 1H), 2.42-2.37 (m, 2H), 1.57-1.51 (m, 2H), 1.22-1.16 (m, 6H), 0.83 (t, J=6.9 Hz, 3H); HRMS (FAB) calcd for C24H30N2O+H1: 363.2436 found 363.2444.

reactant | 10-(2-propoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C(CC)OC1=C(C=CC=C1)C=1C=2C3=C(NC2C=CC1)CCNCC3 | C21H24N2O
reactant | 1-iodopropane | ICCC | C3H7I
product | 10-[2-(Hexyloxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C(CCCCC)OC1=C(C=CC=C1)C=1C=2C3=C(NC2C=CC1)CCNCC3 | C24H30N2O
